US04933355
5-[2-(3-Phenylureido)thiazol-4-ylmethylene]thiazolidine-2,4-dione 1/3 hydrate
Following a procedure similar to that described in Example 1, the desired compound was prepared from 1.1 g of 2-(3-phenylureido)thiazole-4-carbaldehyde, 0.52 g of 2,4-thiazolidinedione, 0.6 g of ammonium chloride, 0.6 ml of 28% v/v aqueous ammonia and 20 ml of ethanol. The resulting product was a yellow powder having the following physical properties.

reactant | 2-(3-phenylureido)thiazole-4-carbaldehyde | 1.1 g | C1(=CC=CC=C1)NC(NC=1SC=C(N1)C=O)=O | C11H9N3O2S
reactant | 2,4-thiazolidinedione | 0.52 g | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | ammonium chloride | 0.6 g | [Cl-].[NH4+]
reactant | ammonia | N | H3N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 5-[2-(3-Phenylureido)thiazol-4-ylmethylene]thiazolidine-2,4-dione | C1(=CC=CC=C1)NC(NC=1SC=C(N1)C=C1C(NC(S1)=O)=O)=O | C14H10N4O3S2
